US06589984B1
After adding a solution of 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy)benzofuran-2-yl)-2H-pyran-2-one (350 mg) in THF (5 ml) and Et3N (80 mg) to a mixed solution of palladium acetate (3.5 mg) and diphenylphospinopropane (6.5 mg) in DMSO (5 ml) and MeOH (5 ml), the mixture was stirred at room temperature for one hour under a carbon monoxide atmosphere, and then further stirred at 80° C. for 2 hours. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/AcOEt=1/1) to obtain 4-acetyloxy-3,5-dimethyl-6-(6-(methoxycarbonyl) benzofuran-2-yl)-2H-pyran-2-one.

reactant | 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy)benzofuran-2-yl)-2H-pyran-2-one | 350 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O)C | C18H13F3O8S
reactant | Et3N | 80 mg | CCN(CC)CC | C6H15N
reactant | diphenylphospinopropane | 6.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)CCC | C15H17P
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | MeOH | 5 ml | CO | CH4O
catalyst | palladium acetate | 3.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-acetyloxy-3,5-dimethyl-6-(6-(methoxycarbonyl) benzofuran-2-yl)-2H-pyran-2-one | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)C(=O)OC)=O)C | C19H16O7
